US07947683B2
4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]-1-butanol
5-(4-hydroxybutyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione (1 g) was dissolved in ethanol (6 ml), Iodomethane (0.4 ml) was added dropwise and the reaction was refluxed for 1 h. Dichloromethane and NaHCO3 saturated solution were added. Solvent was removed under reduced to give a crude product that was purified by flash chromatography on silica gel (eluting with DCM/MeOH from 0 to 10%) to give the title compound (0.73 g).

reactant | 5-(4-hydroxybutyl)-4-methyl-2,4-dihydro-3H-1,2,4-triazole-3-thione | 1 g | OCCCCC=1N(C(NN1)=S)C | C7H13N3OS
reactant | Iodomethane | 0.4 ml | IC | CH3I
reactant | Dichloromethane | ClCCl | CH2Cl2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | ethanol | 6 ml | C(C)O | C2H6O
product | 4-[4-methyl-5-(methylthio)-4H-1,2,4-triazol-3-yl]-1-butanol | 0.73 g | CN1C(=NN=C1SC)CCCCO | C8H15N3OS
